US07199147B2
An aqueous solution (52.5 ml) of sodium hydroxide (2.91 g, 72.8 mmol) was added to a t-butanol suspension (122.5 ml) of trans-4-aminocyclohexanol (8.06 g, 70.0 mmol) at room temperature, followed by adding thereto di-t-butyl dicarbonate (15.9 g, 72.9 mmol), and the resulting mixture was stirred overnight at room temperature. Water was added to the reaction mixture, followed by extraction with n-hexane. The suspended organic layer was filtered and the precipitate was dried to obtain tert-butyl 4-hydroxycyclohexylcarbamate (2.70 g) as a white solid. The aqueous layer was neutralized with 1N-hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/ethyl acetate) to obtain tert-butyl 4-hydroxycyclohexylcarbamate (11.3 g) (14.0 g in total, 93%).

reactant | sodium hydroxide | 72.8 mmol, 52.5 ml, 2.91 g | [OH-].[Na+]
reactant | t-butanol | 122.5 ml | C(C)(C)(C)O | C4H10O
reactant | trans-4-aminocyclohexanol | 70.0 mmol, 8.06 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | di-t-butyl dicarbonate | 72.9 mmol, 15.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | Water | O | H2O
product | tert-butyl 4-hydroxycyclohexylcarbamate | 2.70 g | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
